US07799804B2
4-{2-(2,4-dichlorophenyl)-5-methyl-4-[(piperidin-1-ylamino)carbonyl]-1H-imidazol-1-yl}phenyl pyridine-3-sulfonate
2-(2,4-Dichlorophenyl)-1-(4-hydroxyphenyl)-5-methyl-N-piperidin-1-yl-1H-imidazole-4-carboxamide, prepared as described in Ex. 2, Step 1 (100 mg, 0.22 mmol) and triethylamine (0.31 ml, 2.25 mmol) in dichloromethane (5.0 ml) were cooled to −78° C. 3-Pyridinesulfonyl chloride (144 mg, 0.67 mmol) was added in small portions to the reaction mixture. The resulting mixture was stirred at −78° C. for 1 h, and at room temperature overnight. Water was added to the reaction, the phases were separated and the organic phase washed with water and dried. The solvent was removed under reduced pressure and separation by preparatory HPLC gave the title compound (110 mg, 84%) as a solid.

reactant | 2-(2,4-Dichlorophenyl)-1-(4-hydroxyphenyl)-5-methyl-N-piperidin-1-yl-1H-imidazole-4-carboxamide | ClC1=C(C=CC(=C1)Cl)C=1N(C(=C(N1)C(=O)NN1CCCCC1)C)C1=CC=C(C=C1)O | C22H22Cl2N4O2
reactant | triethylamine | 2.25 mmol, 0.31 ml | C(C)N(CC)CC | C6H15N
reactant | 3-Pyridinesulfonyl chloride | 0.67 mmol, 144 mg | N1=CC(=CC=C1)S(=O)(=O)Cl | C5H4ClNO2S
reactant | Water | O | H2O
solvent | dichloromethane | 5.0 ml | ClCCl | CH2Cl2
product | 4-{2-(2,4-dichlorophenyl)-5-methyl-4-[(piperidin-1-ylamino)carbonyl]-1H-imidazol-1-yl}phenyl pyridine-3-sulfonate | 110 mg, 84% | N1=CC(=CC=C1)S(=O)(=O)OC1=CC=C(C=C1)N1C(=NC(=C1C)C(=O)NN1CCCCC1)C1=C(C=C(C=C1)Cl)Cl | C27H25Cl2N5O4S
